US05214116
Three-necked flask fitted with a thermometer, a stirrer and a dropping funnel was charged with 16.8 g (0.10 mole) of di(2-mercaptoethyl)sulfide monomethyl thioether, 11.1 g (0.11 mole) of triethylamine, and 100 ml of anhydrous chloroform, and the mixture was cooled to 0° C. With stirring, 10.0 g (0.11 mole) of acryloyl chloride was gradually added dropwise. At this time, the reaction temperature was maintained at 0° to 5° C. After the end of addition, the mixture was further stirred at 20° C. for 1 hour. Then, the reaction mixture was poured into water. The organic layer was washed with a dilute aqueous solution of sodium carbonate, and then with water. The organic layer was dried over anhydrous magnesium sulfate. The resulting oil was purified by column chromatography (filler: silica gel; developing agent: chloroform) to give 23.1 g of acryloylthioethyl 2-methylthioethyl sulfide as a colorless clear oil. This compound had a refractive index of 1.585. In its IR spectrum, a strong absorption based on the carbonyl group at 1765 cm-1 and an absorption based on the terminal double bond at 1640 cm-1 were observed. Its elemental analysis values (the parenthesized values were calculated values) well agreed with the calculated values. C: 43.26 % (43.21%), H: 6.58% (6.36%), S: 42.98% (43.26%).

reactant | di(2-mercaptoethyl)sulfide monomethyl thioether | 0.10 mole, 16.8 g | CSC.SCCSCCS
reactant | triethylamine | 0.11 mole, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acryloyl chloride | 0.11 mole, 10.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | O | H2O
product | acryloylthioethyl 2-methylthioethyl sulfide | 23.1 g | CSCCSCCSC(C=C)=O | C8H14OS3
